### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): Woodbury Identity

### PR DESCRIPTION
**Pull request by 4hma4d**
This adds the [Woodbury Identity](https://en.wikipedia.org/wiki/Woodbury_matrix_identity).

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Woodbury.20identity/near/462245284)

Also corrects some bad deprecations introduced in #16590, which affected development of this PR.

Co-authored-by: Mohanad Ahmad

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 1]
```diff
@@ -483,6 +483,37 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
 theorem inv_eq_right_inv (h : A * B = 1) : A⁻¹ = B :=
   inv_eq_left_inv (mul_eq_one_comm.2 h)
 
+section Woodbury
+
+variable [Fintype m] [DecidableEq m]
+variable (A: Matrix n n α) (U : Matrix n m α) (C : Matrix m m α) (V : Matrix m n α)
+variable [Invertible A] [Invertible C][Invertible (C⁻¹ + V * A⁻¹* U)]
```
Comment (vihdzp) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:490]:
```suggestion
variable [Invertible A] [Invertible C] [Invertible (C⁻¹ + V * A⁻¹* U)]
```

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 2]
```diff
@@ -483,6 +483,37 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
...
+
+lemma add_mul_mul_inv_mul_eq_one: (A+U*C*V)*(A⁻¹-A⁻¹*U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹) = 1 := by
```
Comment (vihdzp) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:492]:
```suggestion
lemma add_mul_mul_inv_mul_eq_one: (A + U * C * V) * (A⁻¹ - A⁻¹ * U * (C⁻¹ + V * A⁻¹ * U)⁻¹ * V * A⁻¹) = 1 := by
```
Can you also properly space out the rest of the proof?

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 3]
```diff
@@ -483,6 +483,37 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
...
+        abel
+      _ = 1+U*C*V*A⁻¹-(U+U*C*V*A⁻¹*U)*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹ := by
+        rw [sub_right_inj, Matrix.add_mul,Matrix.add_mul,Matrix.add_mul]
+      _ = 1+U*C*V*A⁻¹-U*C*(C⁻¹+V*A⁻¹*U)*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹ := by
+        congr
+        simp only [Matrix.mul_add, Matrix.mul_inv_cancel_right_of_invertible, ← Matrix.mul_assoc]
+      _ = 1 := by simp
+
+/-- If matrices `A`, `C`, and `C⁻¹ + V*A⁻¹*U` are invertible, then so is `A+U*C*V`-/
+noncomputable def add_mul_mul_inv: Invertible (A+U*C*V) := by
```
Comment (vihdzp) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:508]: This doesn't seem like it should be `noncomputable`, particularly when you already constructed the explicit inverse. Are you missing some `DecidableEq` instance?

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 4]
```diff
@@ -483,6 +483,37 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
...
+lemma add_mul_mul_inv_mul_eq_one: (A+U*C*V)*(A⁻¹-A⁻¹*U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹) = 1 := by
+  calc
+      (A+U*C*V)*(A⁻¹-A⁻¹*U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹)
+      _ = A*A⁻¹-A*A⁻¹*U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹+U*C*V*A⁻¹-U*C*V*A⁻¹*U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹ := by
+        simp_rw [add_sub_assoc, Matrix.add_mul, Matrix.mul_sub, Matrix.mul_assoc]
+      _ = (1+U*C*V*A⁻¹)-(U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹+U*C*V*A⁻¹*U*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹) := by
+        rw [Matrix.mul_inv_of_invertible, Matrix.one_mul]
+        abel
+      _ = 1+U*C*V*A⁻¹-(U+U*C*V*A⁻¹*U)*(C⁻¹+V*A⁻¹*U)⁻¹*V*A⁻¹ := by
+        rw [sub_right_inj, Matrix.add_mul,Matrix.add_mul,Matrix.add_mul]
```
Comment (vihdzp) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:501]:
```suggestion
        rw [sub_right_inj, Matrix.add_mul, Matrix.add_mul, Matrix.add_mul]
```

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:492]: I think it might be worth deviating from the "spaces aroung `*`" style here, and only adding them around the additive operators.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 5]
```diff
@@ -483,6 +483,37 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
 theorem inv_eq_right_inv (h : A * B = 1) : A⁻¹ = B :=
   inv_eq_left_inv (mul_eq_one_comm.2 h)
 
+section Woodbury
+
+variable [Fintype m] [DecidableEq m]
+variable (A: Matrix n n α) (U : Matrix n m α) (C : Matrix m m α) (V : Matrix m n α)
+variable [Invertible A] [Invertible C] [Invertible (C⁻¹ + V * A⁻¹* U)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:490]: Can you restate this to use `⅟` instead of `⁻¹`?
```suggestion
variable [Invertible A] [Invertible C] [Invertible (⅟C + V * ⅟A * U)]
```
I think this would alllow it to generalize to matrices over non-commutative rings; and this would fix @vihdzp's `noncomputable` comment below.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:508]: The issue is that `add_mul_mul_inv_mul_eq_one` uses the noncomputable `⁻¹` (which incurs `Ring.inverse`) instea dof the computable `⅟`. Changing to the latter will make this computable.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:490]: The proof goes through as
```
ble [Invertible A] [Invertible C] [Invertible (⅟C + V * ⅟A* U)]

lemma add_mul_mul_inv_mul_eq_one: (A+U*C*V)*(⅟A-⅟A*U*⅟(⅟C+V*⅟A*U)*V*⅟A) = 1 := by
  calc
      (A+U*C*V)*(⅟A-⅟A*U*⅟(⅟C+V*⅟A*U)*V*⅟A)
      _ = A*⅟A-A*⅟A*U*⅟(⅟C+V*⅟A*U)*V*⅟A+U*C*V*⅟A-U*C*V*⅟A*U*⅟(⅟C+V*⅟A*U)*V*⅟A := by
        simp_rw [add_sub_assoc, Matrix.add_mul, Matrix.mul_sub, Matrix.mul_assoc]
      _ = (1+U*C*V*⅟A)-(U*⅟(⅟C+V*⅟A*U)*V*⅟A+U*C*V*⅟A*U*⅟(⅟C+V*⅟A*U)*V*⅟A) := by
        rw [mul_invOf_self, Matrix.one_mul]
        abel
      _ = 1+U*C*V*⅟A-(U+U*C*V*⅟A*U)*⅟(⅟C+V*⅟A*U)*V*⅟A := by
        rw [sub_right_inj, Matrix.add_mul, Matrix.add_mul, Matrix.add_mul]
      _ = 1+U*C*V*⅟A-U*C*(⅟C+V*⅟A*U)*⅟(⅟C+V*⅟A*U)*V*⅟A := by
        congr
        simp only [Matrix.mul_add, Matrix.mul_mul_invOf_self_cancel, ← Matrix.mul_assoc]
      _ = 1 := by
        rw [Matrix.mul_mul_invOf_self_cancel]
        abel
```
which is essentially the original proof with some lemma renames.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 6]
```diff
@@ -483,6 +483,43 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
 theorem inv_eq_right_inv (h : A * B = 1) : A⁻¹ = B :=
   inv_eq_left_inv (mul_eq_one_comm.2 h)
 
+section Woodbury
+
+variable [Fintype m] [DecidableEq m]
+variable (A: Matrix n n α) (U : Matrix n m α) (C : Matrix m m α) (V : Matrix m n α)
+variable [Invertible A] [Invertible C] [Invertible (⅟C + V * ⅟A* U)]
+
+lemma add_mul_mul_invOf_mul_eq_one : (A + U*C*V)*(⅟A - ⅟A*U*⅟(⅟C + V*⅟A*U)*V*⅟A) = 1 := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:492]: Can you move this to `Matrix/Invertible.lean`, and generalize it from `CommRing` to `Ring`?

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 7]
```diff
@@ -483,6 +483,43 @@ theorem inv_eq_left_inv (h : B * A = 1) : A⁻¹ = B :=
...
+        rw [Matrix.mul_mul_invOf_self_cancel]
+        abel
+
+/-- If matrices `A`, `C`, and `C⁻¹ + V*A⁻¹*U` are invertible, then so is `A + U * C * V`-/
+def add_mul_mul_inv: Invertible (A + U*C*V) := by
+  apply Matrix.invertibleOfRightInverse _ _ (add_mul_mul_invOf_mul_eq_one A U C V)
+
+/-- **Woodbury Identity** -/
+theorem add_mul_mul_inv_eq_sub[Invertible (A + U*C*V)]:
+    ⅟(A + U*C*V) = ⅟A - ⅟A*U*⅟(⅟C + V*⅟A*U)*V*⅟A := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:515]: Can you add a copy of this lemma that uses `inv` and `IsUnit` instead of `invof` and `Invertible`? The copy should follow from the original.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean (hunk 6 above)
Comment (4hma4d) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:492]: Should i move all of it or just this lemma?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:492]: This lemma and the `Invertible` def. The lemma I suggest below about `inv` would remain in this file.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 8]
```diff
@@ -621,14 +658,14 @@ theorem list_prod_inv_reverse : ∀ l : List (Matrix n n α), l.prod⁻¹ = (l.r
     rw [List.reverse_cons', List.map_concat, List.prod_concat, List.prod_cons,
       mul_inv_rev, list_prod_inv_reverse Xs]
 
-/-- One form of **Cramer's rule**. See `Matrix.mulVec_cramer` for a stronger form. -/
+/-- One form of ** Cramer's rule**. See `Matrix.mulVec_cramer` for a stronger form. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:661]: Please remove these spaces you added.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:492]: @4hma4d, do you want me to do the move for you? Happy to do so to get this PR over the line, but don't want to tread on your toes.

Comment (4hma4d) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean]: Sorry for the delay. I didn't move `add_mul_mul_inv` since it relies on `Matrix.invertibleOfRightInverse` which is proved in `NonsingularInverse`

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean]: > I didn't move `add_mul_mul_inv` since it relies on `Matrix.invertibleOfRightInverse` which is proved in `NonsingularInverse`

Indeed, to prove `add_mul_mul_inv` for the non-commutative case you have to repeat the whole proof, but with multiplication on the left instead! I've pushed a commit that does that.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean]: Thanks @4hma4d for your fix for this; I pushed one more that did this a bit more exhaustively.

File: Mathlib/Data/Matrix/Invertible.lean [hunk 9]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Eric Wieser
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Invertible.lean:4]: Feel free to add yourself as an author here, @4hma4d!

File: Mathlib/Data/Matrix/Invertible.lean [hunk 10]
```diff
@@ -101,4 +102,67 @@ def transposeInvertibleEquivInvertible : Invertible Aᵀ ≃ Invertible A where
...
+    _ = 1 + ⅟A*U*C*V - ⅟A*U*⅟(⅟C + V*⅟A*U)*(V + V*⅟A*U*C*V) := by
+      rw [sub_right_inj, Matrix.mul_add]
+      simp_rw [Matrix.mul_assoc]
+    _ = 1 + ⅟A*U*C*V - ⅟A*U*⅟(⅟C + V*⅟A*U)*(⅟C + V*⅟A*U)*C*V := by
+      congr 1
+      simp only [Matrix.mul_add, Matrix.add_mul, ← Matrix.mul_assoc,
+        Matrix.mul_invOf_mul_self_cancel]
+    _ = 1 := by
+      rw [Matrix.mul_invOf_mul_self_cancel]
+      abel
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Invertible.lean:150]: I copy-pasted this from your proof above, and tweaked it to reverse all the multiplications. Thanks for writing the original which made this relatively easy!

File: Mathlib/Data/Matrix/Invertible.lean (hunk 9 above)
Comment (4hma4d) [reply Mathlib/Data/Matrix/Invertible.lean:4]: Thanks!

**Review by eric-wieser — APPROVED** [review]

**Review by YaelDillies — COMMENTED** [review]
Can you add spaces around every `*`?

**Comment by eric-wieser** [comment]
> Can you add spaces around every `*`?

I commented above that I think this reduces clarity in these long expressions; if you disagree, maybe we should take this to Zulip?

**Comment by YaelDillies** [comment]
I don't have very strong opinions either way but, given that you are willfully distancing yourself from the standard, you should record that choice in a comment somewhere near the lemmas

**Comment by 4hma4d** [comment]
Is this fine? I added the spaces in `Nonsingularinverse` since I don't think it affects clarity there, and I added a comment in `Invertible`

**Comment by eric-wieser** [comment]
maintainer merge

Let's let another maintainer take the final look.
Thanks for your work here @4hma4d!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
Can you please merge master and fix the problem? I think it is just something that is now deprecated.

bors d+
